US08309734B2
Step 1: 2-Chloro-4-trimethylsilanylethynyl-benzoic acid methyl ester
To a degassed solution of 4-bromo-2-chloro-benzoic acid methyl ester (3.0 g, 12.0 mmol, 1.0 equiv; [CAS RN 185312-82-7]) in triethylamine (24.3 g, 33.5 mL, 240.5 mmol, 20.0 equiv; [CAS RN 121-44-8]) under Ar was added ethynyl-trimethyl-silane (1.24 g, 1.78 mL, 12.63 mmol, 1.05 equiv; [CAS RN 1066-54-2]), tetrakis(triphenylphosphine)palladium(0) (0.70 g, 0.60 mmol, 0.05 equiv; [CAS RN 14221-01-3]) and copper(I) iodide (0.23 g, 1.20 mmol, 0.1 equiv; [CAS RN 7681-65-4]) and the reaction mixture heated to 70° C. for 18 h. The crude reaction was filtered over Celite®, a sat. solution of NaCl (50 mL) added and extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over Na2SO4 and the product used in the consecutive step without any further purification. Yield: 4.52 g (99%) of the title compound in ca. 70% purity as a slightly brown oil. MS (ISN): 267.0 [M+H]+.

reactant | 4-bromo-2-chloro-benzoic acid methyl ester | 12.0 mmol, 3.0 g, 1.0 equiv | COC(C1=C(C=C(C=C1)Br)Cl)=O | C8H6BrClO2
reactant | triethylamine | 240.5 mmol, 33.5 mL, 24.3 g, 20.0 equiv | C(C)N(CC)CC | C6H15N
reactant | ethynyl-trimethyl-silane | 12.63 mmol, 1.78 mL, 1.24 g, 1.05 equiv | C(#C)[Si](C)(C)C | C5H10Si
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.60 mmol, 0.70 g, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 1.20 mmol, 0.23 g, 0.1 equiv | [Cu]I
product | 2-Chloro-4-trimethylsilanylethynyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C#C[Si](C)(C)C)Cl)=O | C13H15ClO2Si
